US08097627B2
(rac.) 4-(4-Chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester
4.71 g (10.26 mmol) of (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-trimethylsilyloxy-pentanoic acid ethyl ester is dissolved in 57 ml of tetrahydrofuran and mixed with 3.24 g (10.26 mmol) of tetrabutylammonium fluoride trihydrate: after stirring over the weekend at room temperature, the reaction mixture is mixed with water and extracted three times with methyl-tert-butyl ether. The combined organic extracts are washed with brine. After drying, the solvent is spun off, and the remaining residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 3.07 g (77.4%) of the desired compound is isolated.

reactant | (rac.) 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-trimethylsilyloxy-pentanoic acid ethyl ester | 10.26 mmol, 4.71 g | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)Cl)F)OC)(O[Si](C)(C)C)C(F)(F)F)=O | C19H27ClF4O4Si
reactant | tetrabutylammonium fluoride trihydrate | 10.26 mmol, 3.24 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 57 ml | O1CCCC1 | C4H8O
product | (rac.) 4-(4-Chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)-2-hydroxy-pentanoic acid ethyl ester | 3.07 g, 77.4% | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)Cl)F)OC)(O)C(F)(F)F)=O | C16H19ClF4O4
